US06852752B2
To ethyl 2-[N-(2-(cyclopentyl)ethyl)-N-[2-(3-hydroxyphenyl)aminocarbonyl-pyrrolidin-1-carbonyl)amino]acetate (200 μmol) in dioxane (2 mL) was added 50% aqueous hydroxylamine (1 mL), and the reaction stirred for 36 h. The crude reaction mixture was then purified by preparative reverse-phase (C18) HPLC to afford N-hydroxy-{N-[2-(cyclopentyl)ethyl]-N-[2-(3-hydroxyphenyl)aminocarbonylpyrrolidin-1-ylcarbonyl]-amino}acetamide. 1H NMR (DMSO-d6): δ9.33 (br s, 1H), 7.25-7.24 (m, 1H), 7.07-6.99 (m, 2H), 6.45-6.41 (m, 1H), 4.38 (dd, J=8.4, 8.4, 1H), 3.88 (d, J=16.5, 1H), 3.66 (d, J=16.5, 1H), 3.48-3.46 (m, 2H), 3.27-3.22 (m, 1H), 3.20-3.01 (m, 1H), 2.19 (br s, 1H), 1.91 (br s, 1H), 1.73-1.68 (m, 5H), 1.63-1.41 (m, 6H), 1.08-1.05 (m, 2H). ES−MS: calcd. for C21H30N4O5 (418.2); found: 417.7 [M−1].

reactant | ethyl 2-[N-(2-(cyclopentyl)ethyl)-N-[2-(3-hydroxyphenyl)aminocarbonyl-pyrrolidin-1-carbonyl)amino]acetate | 200 μmol | C1(CCCC1)CCN(C(=O)N1C(CCC1)C(=O)NC1=CC(=CC=C1)O)CC(=O)OCC | C23H33N3O5
reactant | hydroxylamine | 1 mL | NO | H3NO
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-hydroxy-{N-[2-(cyclopentyl)ethyl]-N-[2-(3-hydroxyphenyl)aminocarbonylpyrrolidin-1-ylcarbonyl]-amino}acetamide | ONC(CN(C(=O)N1C(CCC1)C(=O)NC1=CC(=CC=C1)O)CCC1CCCC1)=O | C21H30N4O5
